US04496584
Synthesis of 6-amidino-2-naphthyl laurate (Compound No. 6)
To a solution of 3.6 g of lauric acid in 50 ml of anhydrous pyridine, while being cooled in ice, was added 4.4 g of DCC. After stirring for 30 minutes, 5.0 g of 6-amidino-2-naphthol methanesulfonate was added to the mixture and further stirred overnight at room temperature. The precipitate was collected by filtration, washed with ether, then with acetone, dissolved in methanol, freed from the insolubles by filtration, concentrated under reduced pressure, and recrystallized from ethanol to yield 1.2 g of white crystals of 6-amidino-2-naphthyl laurate methanesulfonate.

reactant | lauric acid | 3.6 g | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 6-amidino-2-naphthol methanesulfonate | 5.0 g | CS(=O)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C12H12N2O3S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 6-amidino-2-naphthyl laurate | 1.2 g | C(CCCCCCCCCCC)(=O)OC1=CC2=CC=C(C=C2C=C1)C(N)=N | C23H32N2O2
